US09227963B2
3,5,8-trimethyl-1-adamantanemethanol
To a solution of 3,5,8-trimethyl-1-adamantane carboxylic acid (0.5 g) in tetrahydrofuran (3 mL) was dropwise added BH3.tetrahydrofuran (4.50 mL) and the mixture was stirred at room temperature for 14 hours. The reaction mixture was quenched with methanol (3 mL), concentrated and purified by chromatography on silica gel using 0-30% ethyl acetate/hexanes as eluent to provide the title compound.

reactant | 3,5,8-trimethyl-1-adamantane carboxylic acid | 0.5 g | CC12CC3(C(C(CC(C1)(C3)C)C2)C)C(=O)O | C14H22O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.50 mL | O1CCCC1 | C4H8O
product | 3,5,8-trimethyl-1-adamantanemethanol | CC12CC3(C(C(CC(C1)(C3)C)C2)C)CO | C14H24O
